2132-09-23 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No overnight events. Denies CP or SOB.
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Darvocet A500 (Oral) (Propoxyphene/Acetaminophen)
   Oxycodone; Vancomycin
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Amiodarone - [**2132-9-22**] 08:40 PM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-9-23**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 68 (65 - 82) bpm
   BP: 109/40(58) {109/40(58) - 125/52(72)} mmHg
   RR: 17 (15 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                     77 mL
                                                                    126 mL
   PO:
             TF:
   IVF:
                                                                     77 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,923 mL
                                                                    126 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 26 cmH2O
   SpO2: 99%
   ABG: 7.44/39/408/30/2
   Ve: 7.7 L/min
   Physical Examination
   GEN: now extubated, awake, following commands, no acute distress and
   appears comfortable
   SKIN: no rashes or skin changes noted
   HEENT: no JVD, neck supple, No lymphadenopathy in cervical, posterior,
   or supraclavicular chains noted.
   CHEST: occasinal bibasilar rales
   CARDIAC: Regular rhythm; [**1-4**] murmur at RUSB and also apprieciated at
   apex
   ABDOMEN: Non-distended, obese, and soft without tenderness
   EXTREMITIES: 1+ bilateral LE edema, TTP over right hip. 1+ post tib
   pulses b/l
   NEUROLOGIC: Alert and appropriate. CN II-XII grossly intact. BUE [**4-1**],
   and BLE exam with reduced strength in LLE (old), unable to exam RLE
   secondary to pain.
   Labs / Radiology
   152 K/uL
   12.7 g/dL
   100 mg/dL
   6.3 mg/dL
   30 mEq/L
   4.2 mEq/L
   52 mg/dL
   98 mEq/L
   142 mEq/L
   39.3 %
   9.3 K/uL
        [image002.jpg]
                            [**2132-9-22**]  08:30 PM
                            [**2132-9-22**]  08:34 PM
                            [**2132-9-23**]  04:29 AM
   WBC
   11.3
   9.3
   Hct
   39.4
   39.3
   Plt
   161
   152
   Cr
   5.7
   6.3
   TropT
   0.26
   0.28
   TCO2
   27
   Glucose
   105
   100
   Other labs: PT / PTT / INR:14.2/34.6/1.2, CK / CKMB /
   Troponin-T:58//0.28, ALT / AST:18/38, Alk Phos / T Bili:161/0.3,
   Differential-Neuts:85.9 %, Lymph:7.3 %, Mono:3.5 %, Eos:2.6 %, Lactic
   Acid:1.2 mmol/L, LDH:319 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:8.2
   mg/dL
   Assessment and Plan
   82 y/o male w/ CAD s/p CABG in [**2122**] and LMain DES [**1-/2131**], LVEF of 60%
   on most recent echo, dCHF, pulm htn, mild AS, PVD s/p aortobifem
   bypass, AAA s/p repair, ESRD on HD with hip fx s/p mechanical fall and
   preoperative recurrent pulseless monomorphic VT.  No strips of the
   events are available, and events are per discussion with anesthesia.
   Given known CAD, consider scar mediated VT, potentiated by anesthesia
   induction.
   # Recurrent pulseless VT: occurred in OR, likely in the setting of HD
   and anethesia induction, vs. low flow state, non-thrombotic issue.
   - continue IV amiodarone gtt at 0.5
   - follow CE x 3 although will be difficult to interpret in the setting
   of cardioversion.  CE neg x 2.
   - EKG now and in AM, after amio gtt will start amio 400 [**Hospital1 7**]
   - aspirin, beta blocker, statin
   - hold on plavix as still awaiting surgery
   - no heparin for now
   - TTE in am to assess possible focal wall motion abnormality, likely
   after OR.
   - no need for urgent cath
   - consider EP consult in AM
   # Coronaries/CAD: He is s/p CABG in [**2122**] for 3 vessel disease, with
   cath [**1-/2131**] showing
   patent LIMA-LAD, occluded SVG-RCA, occluded SVG-OM1/OM33.  Patient also
   s/p NSTEMI (DES in L main) in [**2-3**].
   - aspirin, beta blocker, statin (decr. To 20mg due to interaction with
   amiodarone)
   - hold on plavix as still awaiting surgery
   # Pump: most recent echo [**1-/2131**] showing LVEF of 60%, moderate pulmonary
   artery hypertension, mild AS, mildly dilated right ventricular cavity
   with normal free wall contractility.
   - f/u echo in AM, looking for focal wall motion abnormality,
   particularly in setting of recurrent pulseless VT
   # Right hip fracture: Mechanical fall from wheelchair with subsequent
   fracture. Seen by ortho in ED and plan for ORIF vs hemiarthroplasty.
   Moderate-high risk candidate.
   - NWB of the right lower extremity
   - pain management
   - ortho following
   - continue metoprolol
   - DVT ppx
   - calcium/vitamin D
   .
   #. ESRD:
   - cont HD MWF, renal aware and last dialysis on [**2132-9-22**] AM
   - cont calcium acetate and nephrocaps
   .
   # Dermatitis/"bulbous perigosus":
   - continue doxycycline per outpatient derm
   .
   # FEN: replete lytes prn / NPO for now , tranzadon/mirtazapine (watch
   for prolong QT), Mg >2, K >4, [**Hospital1 7**] lytes, ECG daily
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: 2 PIV
   # CODE: Full, discussed
   # CONTACT: daughter, [**Name (NI) **] [**Name (NI) 11018**] [**Telephone/Fax (1) 11019**] (cell), [**Telephone/Fax (1) 11020**]
   (home)
   # DISPOSITION:  CCU for now, after surgery consider going to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-9-22**] 08:00 PM
   20 Gauge - [**2132-9-22**] 08:15 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:  extubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: consider floor today

2132-09-23 09:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No overnight events. Without CP, SOB.
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Darvocet A500 (Oral) (Propoxyphene/Acetaminophen)
   Oxycodone; Vancomycin
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Amiodarone - [**2132-9-22**] 08:40 PM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-9-23**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 68 (65 - 82) bpm
   BP: 109/40(58) {109/40(58) - 125/52(72)} mmHg
   RR: 17 (15 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                     77 mL
                                                                    126 mL
   PO:
             TF:
   IVF:
                                                                     77 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,923 mL
                                                                    126 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 26 cmH2O
   SpO2: 99%
   ABG: 7.44/39/408/30/2
   Ve: 7.7 L/min
   Physical Examination
   GEN: now extubated, awake, following commands, no acute distress and
   appears comfortable
   SKIN: no rashes or skin changes noted
   HEENT: no JVD, neck supple, No lymphadenopathy in cervical, posterior,
   or supraclavicular chains noted.
   CHEST: occasinal bibasilar rales
   CARDIAC: Regular rhythm; [**1-4**] murmur at RUSB and also apprieciated at
   apex
   ABDOMEN: Non-distended, obese, and soft without tenderness
   EXTREMITIES: 1+ bilateral LE edema, TTP over right hip. Dopplerabe-1+
   post tib pulses b/l
   NEUROLOGIC: Alert and appropriate. CN II-XII grossly intact. BUE [**4-1**],
   and BLE exam with reduced strength in LLE (old), unable to exam RLE
   secondary to pain.
   Labs / Radiology
   152 K/uL
   12.7 g/dL
   100 mg/dL
   6.3 mg/dL
   30 mEq/L
   4.2 mEq/L
   52 mg/dL
   98 mEq/L
   142 mEq/L
   39.3 %
   9.3 K/uL
        [image002.jpg]
                            [**2132-9-22**]  08:30 PM
                            [**2132-9-22**]  08:34 PM
                            [**2132-9-23**]  04:29 AM
   WBC
   11.3
   9.3
   Hct
   39.4
   39.3
   Plt
   161
   152
   Cr
   5.7
   6.3
   TropT
   0.26
   0.28
   TCO2
   27
   Glucose
   105
   100
   Other labs: PT / PTT / INR:14.2/34.6/1.2, CK / CKMB /
   Troponin-T:58//0.28, ALT / AST:18/38, Alk Phos / T Bili:161/0.3,
   Differential-Neuts:85.9 %, Lymph:7.3 %, Mono:3.5 %, Eos:2.6 %, Lactic
   Acid:1.2 mmol/L, LDH:319 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:8.2
   mg/dL
   Assessment and Plan
   82 y/o male w/ CAD s/p CABG in [**2122**] and LMain DES [**1-/2131**], LVEF of 60%
   on most recent echo, dCHF, pulm htn, mild AS, PVD s/p aortobifem
   bypass, AAA s/p repair, ESRD on HD with hip fx s/p mechanical fall and
   preoperative recurrent pulseless monomorphic VT.  No strips of the
   events are available, and events are per discussion with anesthesia.
   Given known CAD, consider scar mediated VT, potentiated by anesthesia
   induction.
   # Recurrent pulseless VT
   - continue IV amiodarone gtt at 0.5
   - CE flat x 2
   - EKG now and in AM
   - aspirin, beta blocker, statin
   - hold on plavix as still awaiting surgery
   - no heparin for now
   - post-op TTE to assess possible focal wall motion abnormality after R
   hip procedure
   - EP consult
   # Coronaries/CAD: He is s/p CABG in [**2122**] for 3 vessel disease, with
   cath [**1-/2131**] showing
   patent LIMA-LAD, occluded SVG-RCA, occluded SVG-OM1/OM33.  Patient also
   s/p NSTEMI (DES in L main) in [**2-3**].
   - aspirin, beta blocker, statin
   - hold on plavix as still awaiting surgery
   # Pump: most recent echo [**1-/2131**] showing LVEF of 60%, moderate pulmonary
   artery hypertension, mild AS, mildly dilated right ventricular cavity
   with normal free wall contractility.
   - post-op echo, looking for focal wall motion abnormality, particularly
   in setting of recurrent pulseless VT
   # Right hip fracture: Mechanical fall from wheelchair with subsequent
   fracture. Seen by ortho in ED and plan for ORIF vs hemiarthroplasty.
   Moderate-high risk candidate.
   - NWB of the right lower extremity
   - pain management
   - ortho following; can take for surgery today as patient
   hemodynamically stable
   - continue metoprolol
   - DVT ppx
   - calcium/vitamin D
   .
   #. ESRD:
   - cont HD MWF
   - renal aware and last dialysis on [**2132-9-22**] AM
   - cont calcium acetate and nephrocaps
   .
   # Dermatitis/"bulbous perigosus":
   - continue minocycline per outpatient derm
   .
   # FEN: replete lytes prn / NPO for now
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: 2 PIV
   # CODE: Full, discussed
   # CONTACT: daughter, [**Name (NI) **] [**Name (NI) 11018**] [**Telephone/Fax (1) 11019**] (cell), [**Telephone/Fax (1) 11020**]
   (home)
   # DISPOSITION:  CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-9-22**] 08:00 PM
   20 Gauge - [**2132-9-22**] 08:15 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:  extubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: consider floor today

2132-09-24 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - TTE yesterday shows EF 40-50% with inferior & posterior hypokinesis,
   new in comparison to prior [**2-3**] echo
   - went for ortho procedure (ORIF R hip), now weight-bearing per ortho.
   Recommended anticoagulation with warfarin to target INR 1.5 - 2.0
   post-operatively.
   - EP recs: patient to continue on amiodarone 0.5 mg/kg/min for 24 more
   hours, then d/c if patient remains stable
   - post-operatively patient began to c/o bilateral arm weakness, on
   initial neuro exam patient was found to have 1+/5 L deltoid strength,
   0/5 R deltoid strength.  Ortho was consulted and saw patient,
   recommended NSGY eval.  NSGY recommended placing patient in hard collar
   and CT c-spine.  Per Rads, CT c-spine showed significant cervical
   narrowing of spinal canal which could represent old stenosis but would
   be potentially worrisome for acute cord impingment.  During this time,
   patient's neuro exam gradually resolved with improved L arm strength,
   then R arm strength, ultimately with improvement to baseline.  After
   discussion with NSGY, plan was to get MRI c-spine nonemergently for
   further assessment.
   - spoke with patient
s daughter, [**Name (NI) **], this AM, to apprise her of
   situation
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Darvocet A500 (Oral) (Propoxyphene/Acetaminophen)
   Rash;
   Oxycodone
   Rash;
   Vancomycin
   Hypotension;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-9-24**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.4
   HR: 65 (65 - 78) bpm
   BP: 91/37(50) {90/37(35) - 157/74(88)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,040 mL
                                                                    590 mL
   PO:
             500 mL
   TF:
   IVF:
                                                                  1,040 mL
                                                                     90 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    940 mL
                                                                    590 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   163 K/uL
   11.1 g/dL
   150 mg/dL
   7.4 mg/dL
   25 mEq/L
   5.0 mEq/L
   70 mg/dL
   96 mEq/L
   138 mEq/L
   36.9 %
   14.9 K/uL
        [image002.jpg]
                            [**2132-9-22**]  08:30 PM
                            [**2132-9-22**]  08:34 PM
                            [**2132-9-23**]  04:29 AM
                            [**2132-9-24**]  12:13 AM
   WBC
   11.3
   9.3
   14.9
   Hct
   39.4
   39.3
   36.9
   Plt
   161
   152
   163
   Cr
   5.7
   6.3
   7.4
   TropT
   0.26
   0.28
   TCO2
   27
   Glucose
   105
   100
   150
   Other labs: PT / PTT / INR:14.2/34.6/1.2, CK / CKMB /
   Troponin-T:264/6/0.28, ALT / AST:18/38, Alk Phos / T Bili:161/0.3,
   Differential-Neuts:85.9 %, Lymph:7.3 %, Mono:3.5 %, Eos:2.6 %, Lactic
   Acid:1.2 mmol/L, LDH:319 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:10.7
   mg/dL
   Assessment and Plan
   82 y/o male w/ CAD s/p CABG in [**2122**] and LMain DES [**1-/2131**], LVEF of 60%
   on most recent echo, dCHF, pulm htn, mild AS, PVD s/p aortobifem
   bypass, AAA s/p repair, ESRD on HD with hip fx s/p mechanical fall and
   preoperative recurrent pulseless monomorphic VT.  No strips of the
   events are available, and events are per discussion with anesthesia.
   Given known CAD, consider scar mediated VT, potentiated by anesthesia
   induction.
   # Recurrent pulseless VT: occurred in OR, likely in the setting of HD
   and anethesia induction, vs. low flow state, non-thrombotic issue.
   - continue IV amiodarone gtt at 0.5
   - follow CE x 3 although will be difficult to interpret in the setting
   of cardioversion.  CE neg x 2.
   - EKG now and in AM, after amio gtt will start amio 400 [**Hospital1 7**]
   - aspirin, beta blocker, statin
   - hold on plavix as still awaiting surgery
   - no heparin for now
   - TTE in am to assess possible focal wall motion abnormality, likely
   after OR.
   - no need for urgent cath
   - consider EP consult in AM
   # neurologic weakness
   # Coronaries/CAD: He is s/p CABG in [**2122**] for 3 vessel disease, with
   cath [**1-/2131**] showing
   patent LIMA-LAD, occluded SVG-RCA, occluded SVG-OM1/OM33.  Patient also
   s/p NSTEMI (DES in L main) in [**2-3**].
   - aspirin, beta blocker, statin (decr. To 20mg due to interaction with
   amiodarone)
   - hold on plavix as still awaiting surgery
   # Pump: most recent echo [**1-/2131**] showing LVEF of 60%, moderate pulmonary
   artery hypertension, mild AS, mildly dilated right ventricular cavity
   with normal free wall contractility.
   - f/u echo in AM, looking for focal wall motion abnormality,
   particularly in setting of recurrent pulseless VT
   # Right hip fracture: Mechanical fall from wheelchair with subsequent
   fracture. Seen by ortho in ED and plan for ORIF vs hemiarthroplasty.
   Moderate-high risk candidate.
   - NWB of the right lower extremity
   - pain management
   - ortho following
   - continue metoprolol
   - DVT ppx
   - calcium/vitamin D
   .
   #. ESRD:
   - cont HD MWF, renal aware and last dialysis on [**2132-9-22**] AM
   - cont calcium acetate and nephrocaps
   .
   # Dermatitis/"bulbous perigosus":
   - continue doxycycline per outpatient derm
   .
   # FEN: replete lytes prn / NPO for now , tranzadon/mirtazapine (watch
   for prolong QT), Mg >2, K >4, [**Hospital1 7**] lytes, ECG daily
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: 2 PIV
   # CODE: Full, discussed
   # CONTACT: daughter, [**Name (NI) **] [**Name (NI) 11018**] [**Telephone/Fax (1) 11019**] (cell), [**Telephone/Fax (1) 11020**]
   (home)
   # DISPOSITION:  CCU for now, after surgery consider going to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-9-22**] 08:00 PM
   20 Gauge - [**2132-9-22**] 08:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-09-25 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - hypotensive episode to 80/40 during HD, recovered s/p 300cc IV
   hydration - did not call out due to this episode.
   - started on coumadin 5mg (goal INR 1.5-2)
   - stopped amio
   - per EP recs, no study warranted at this time
   - need to follow MRI of C-spine.
   - patient was hypotensive to 70/40, asymptomatic, was bolused with
   250cc x2.
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Darvocet A500 (Oral) (Propoxyphene/Acetaminophen)
   Rash;
   Oxycodone
   Rash;
   Vancomycin
   Hypotension;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2132-9-24**] 08:10 AM
   Heparin Sodium (Prophylaxis) - [**2132-9-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-9-25**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 71 (62 - 87) bpm
   BP: 86/39(47) {65/20(30) - 140/62(81)} mmHg
   RR: 15 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                    918 mL
                                                                    620 mL
   PO:
                                                                    770 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    148 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    918 mL
                                                                    620 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   GEN: NAD, AAOx3
   CV: RRR c [**2-1**] SM heard throughout precordium
   RESP: CTAB s rwr
   ABD: S, NT/ND, +BS
   EXT: WWP, 1+ pulses bilaterally
   NEURO: 4+/5 str in UE bilaterally on shoulder flexion
   Labs / Radiology
   140 K/uL
   9.3 g/dL
   92 mg/dL
   5.1 mg/dL
   30 mEq/L
   4.3 mEq/L
   41 mg/dL
   101 mEq/L
   142 mEq/L
   30.1 %
   9.7 K/uL
        [image002.jpg]
                            [**2132-9-22**]  08:30 PM
                            [**2132-9-22**]  08:34 PM
                            [**2132-9-23**]  04:29 AM
                            [**2132-9-24**]  12:13 AM
                            [**2132-9-24**]  02:51 PM
                            [**2132-9-25**]  05:38 AM
   WBC
   11.3
   9.3
   14.9
   8.1
   9.7
   Hct
   39.4
   39.3
   36.9
   32.0
   30.1
   Plt
   161
   152
   163
   131
   140
   Cr
   5.7
   6.3
   7.4
   6.1
   5.1
   TropT
   0.26
   0.28
   0.22
   TCO2
   27
   Glucose
   105
   100
   150
   143
   92
   Other labs: PT / PTT / INR:22.2/44.8/2.1, CK / CKMB /
   Troponin-T:155/5/0.22, ALT / AST:18/38, Alk Phos / T Bili:161/0.3,
   Amylase / Lipase:86/24, Differential-Neuts:85.9 %, Lymph:7.3 %,
   Mono:3.5 %, Eos:2.6 %, Lactic Acid:1.2 mmol/L, LDH:319 IU/L, Ca++:8.3
   mg/dL, Mg++:2.0 mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
   82 y/o male w/ CAD s/p CABG in [**2122**] and LMain DES [**1-/2131**], LVEF of 60%
   on most recent echo, dCHF, pulm htn, mild AS, PVD s/p aortobifem
   bypass, AAA s/p repair, ESRD on HD with hip fx s/p mechanical fall and
   preoperative recurrent pulseless monomorphic VT.  No strips of the
   events are available, and events are per discussion with anesthesia.
   Given known CAD, consider scar mediated VT, potentiated by anesthesia
   induction.  Hypotensive yesterday during HD before could be called out,
   responded to fluids.
   # Recurrent pulseless VT: occurred in OR, likely in the setting of HD
   and anethesia induction.  Recent echo shows area of hypokinesis
   consistent with scar which could potentially be focus.
   - per EP recs, stopped amiodarone gtt.  Assuming no further events,
   patient does not need further amiodarone treatment.
   - per EP recs, no study warranted at this time.  EP feels that even if
   an inducible VT was noted on study, they could not be sure  that this
   was the pathway responsible for the patient
s OR event, as the original
   strip from the OR is not available and could not compared to an
   inducible rhythm.
   # hypotension
 Corrected with fluids, likely due to excess volume
   removal (initially) during HD.
   - holding metoprolol on mornings before HD
   # neurologic weakness
 Patient back to baseline UE strength.  CT
   C-spine shows significant narrowing, potentially old changes.
   -          Per NSGY, MRI today to reassess.
   -          Continue C-collar until cleared by NSGY.
   # Coronaries/CAD: He is s/p CABG in [**2122**] for 3 vessel disease, with
   cath [**1-/2131**] showing
   patent LIMA-LAD, occluded SVG-RCA, occluded SVG-OM1/OM33.  Patient also
   s/p NSTEMI (DES in L main) in [**2-3**].
   - aspirin, beta blocker, statin (dose was lowered temporarily while on
   amio, now back to home dose)
   # Pump: EF 40-50% with inferior & posterior hypokinesis
   # Right hip fracture: Mechanical fall from wheelchair with subsequent
   fracture. S/p ORIF by Ortho.
   -          now weight bearing
   -          physical therapy
   -          start low-dose warfarin per ortho recs to titrate to INR 1.5
 2.0.   They generally use Lovenox post-op but this is not an option
   given the patient
s ESRD.
   .
   #. ESRD:
   - cont HD MWF, renal aware
   - cont calcium acetate and alum ox
   .
   # Dermatitis/"bulbous perigosus":
   - continue minocycline per outpatient derm
   .
   # FEN: replete lytes prn / NPO for now, Mg >2, K >4, [**Hospital1 7**] lytes, ECG
   daily
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: 2 PIV
   # CODE: Full, discussed
   # CONTACT: daughter, [**Name (NI) **] [**Name (NI) 11018**] [**Telephone/Fax (1) 11019**] (cell), [**Telephone/Fax (1) 11020**]
   (home)
   # DISPOSITION:  to be called out to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-9-22**] 08:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: